US05466823
A 100 mL three-necked round-bottomed flask equipped with reflux condenser, gas dispersion tube and provisions for magnetic stirring was charged with 4-[5-(4-chlorophenyl)-3-trifluoromethyl-1H-pyrazol-1-yl]benzenesulfonamide (500 mg, 1.2 mmol) and 50 mL of glacial acetic acid. The solution was stirred at room temperature and treated with a stream of chlorine gas for a period of 15 minutes. The solution was then stirred at room temperature for 1.25 hours and then diluted with 100 mL of water. The solution was then extracted three times with ether and the combined ethereal phase washed with brine, dried over anhyd. MGSO4, filtered, and concentrated in vacuo to give a while solid that was recrystallized from ether/petroleum ether to provide 390 mg, 75% of 4-[5-(4-chlorophenyl)-4-chloro-3-trifluoromethyl-1H-pyrazol-1-yl]benzenesulfonamide, mp 180°-182° C. 1H nmr (CDCl3 /300 MHz) 7.97(d, J=6.6 Hz, 2H), 7.49(d, J= 6.3 Hz, 2H), 7.45(d, J=6.3 Hz, 2H), 7.25(d, J=6.6 Hz, 2H), 5.78(brs, 2H).

reactant | 4-[5-(4-chlorophenyl)-3-trifluoromethyl-1H-pyrazol-1-yl]benzenesulfonamide | 1.2 mmol, 500 mg | ClC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)S(=O)(=O)N)C(F)(F)F | C16H11ClF3N3O2S
reactant | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
reactant | chlorine | ClCl | Cl2
solvent | water | 100 mL | O | H2O
product | 4-[5-(4-chlorophenyl)-4-chloro-3-trifluoromethyl-1H-pyrazol-1-yl]benzenesulfonamide | 390 mg, 75% | ClC1=CC=C(C=C1)C1=C(C(=NN1C1=CC=C(C=C1)S(=O)(=O)N)C(F)(F)F)Cl | C16H10Cl2F3N3O2S
